US20010027196A1
2-Amino-4-furan-2-yl-6-[(naphthalen-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and C-Naphthalen-2-yl-methylamine in DME. ES-MS m/e (%): 342 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | C-Naphthalen-2-yl-methylamine | C1=C(C=CC2=CC=CC=C12)CN | C11H11N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-[(naphthalen-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=CC2=CC=CC=C2C=C1 | C20H15N5O
